US06306887B1
C. 3-Hydroxy-4-(4-methyl -2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoylamino)-butyric acid benzyl ester
To a stirred solution of 4-methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid (3.6 g), 4-amino-3-hydroxy-butyric acid benzyl ester hydrochloride (1.6 g), triethylamine (1 ml) and HOBT (1.06 g) in DMF (50 ml) at room temperature was added EDCl (1.63 g). After stirring 16 h the mixture was poured into 1500 ml ice-water and stirred for 20 min. The resulting ppt was filtered and dried to give a creme colored solid. Recrystallization from EtOAc gave 2.1 g of the title compound as a white solid. MS [M+1]+ 589.2; 1H nmr (400 MHz, DMSO-d6) δ0.73-0.81 (m, 6H), 1.37-1.49 (m, 3H), 2.19 (s, 3H), 2.20-2.28 (m, 1H), 2.46-2.49 (m, 1H), 2.99-3.09 (m, 2H), 3.33 (q, J=13.8 Hz, 2H), 3.90 (m, 1H), 4.19-4.23 (m, 1H), 5.05 (m , 2H), 6.88 (t, 1H), 7.06-7.12 (m, 4H), 7.26-7.34 (m, 6H), 7.75 (d, J=8.1 Hz, 1H), 7.92 (dt, 1H), 8.06 (s, 1H), 8.10 (d, J=8.1 Hz, 1H), 9.13 (s, 1H).

reactant | 4-methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid | 3.6 g | CC(CC(C(=O)O)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)C | C22H27N3O4
reactant | 4-amino-3-hydroxy-butyric acid benzyl ester hydrochloride | 1.6 g | Cl.C(C1=CC=CC=C1)OC(CC(CN)O)=O
reactant | HOBT | 1.06 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 1.63 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 3-Hydroxy-4-(4-methyl -2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoylamino)-butyric acid benzyl ester | 2.1 g | C(C1=CC=CC=C1)OC(CC(CNC(C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O)O)=O | C33H40N4O6
